US07659268B2
To a suspension of methyl 4-(4-bromophenyl)-4-(hydroxyimino)butanoate (5.0 g, 17 mmol) in acetic acid (60 mL) was added Zn (2.3 g, 35 mmol). The resulting mixture was stirred at 80° C. overnight under N2 atmosphere. The reaction was cooled to room temperature and filtered. The filtrate was neutralized with saturated NaHCO3 solution and extracted with ethyl acetate (30 mL×3). The combined organics were washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo. The solid was washed with ether to afford 5-(4-bromophenyl)-pyrrolidin-2-one (0.82 g, 20%). 1H NMR (CDCl3, 400 MHz) δ 7.50 (d, J=8.4, 1 H), 7.18 (d, J=8.4, 2H), 5.87 (br s, 1H), 4.72 (t, J=6.8, 2H), 2.63-2.50 (m, 1H), 2.48-2.38 (m, 2H), 1.98-1.89 (m, 1H). MS (ESI) m/z 240.1 [M+H+].

reactant | methyl 4-(4-bromophenyl)-4-(hydroxyimino)butanoate | 17 mmol, 5.0 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=NO | C11H12BrNO3
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | 35 mmol, 2.3 g | [Zn] | Zn
product | 5-(4-bromophenyl)-pyrrolidin-2-one | 0.82 g, 20% | BrC1=CC=C(C=C1)C1CCC(N1)=O | C10H10BrNO
